US06165941
5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-3-(2,3-epoxypropyl)-1-(1-methylethyl)benzimidazol-2-one (Table 3, Compound No. Ic.07)
In a similar manner to the preparation of 5-(3-chloro-5-trifluoromethylpyridin-2-yl)-3-methyl-1-(1-methylethyl)benzimidazol-2-one described above, 2.5 g of 5-(3-chloro-5-trifluoromethyl-pyridin-2yl)-1-(1-methylethyl)benzimidazol-2-one and 1.0 g of epibromohydrin gave 2.4 g of colorless crystals. Yield: 83%; m.p.: 110-111° C.

reactant | 5-(3-chloro-5-trifluoromethylpyridin-2-yl)-3-methyl-1-(1-methylethyl)benzimidazol-2-one | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2C)=O)C(C)C)C=C1 | C17H15ClF3N3O
reactant | 5-(3-chloro-5-trifluoromethyl-pyridin-2yl)-1-(1-methylethyl)benzimidazol-2-one | 2.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2)=O)C(C)C)C=C1 | C16H13ClF3N3O
reactant | epibromohydrin | 1.0 g | C(Br)C1CO1 | C3H5BrO
product | 5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-3-(2,3-epoxypropyl)-1-(1-methylethyl)benzimidazol-2-one | 2.4 g, Yield: 83% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2CC2CO2)=O)C(C)C)C=C1 | C19H17ClF3N3O2
